*                IN  OUT
*                 |    |
.subckt sbau383a  1    2

.include ../sbomc43/buf802.lib
xbuf802 IN+ OUT VCC2  VEE2 VCH VCL In_Bias In_Aux 0 BUF802
* xbuf802 2 11 1 5,8 15 14 3 4 17 BUF802

* connections to VIN #2
R26 IN+ 5001 1.0e6
C43 5001 0 2.2e-6
C44 IN+ 1 100.0e-9
R29 1 0 50.0

* connections to P1 P2 P3
Vp VCC  0 6
Vm VEE  0 -6
L2 VCC  VCC2 1000
L3 VEE  VEE2 1000
C20 VCC2  0 10.0e-6
C21 VCC2  0 1.0e-6
C29 VEE2 0 10.0e-6
C30 VEE2 0 1.0e-6

RP1 VCC2  5001 5.0e3
RP2 5001 VEE2 5.0e3

* connections to RBIAS

* connections to VCH
R22 VCC2  VCH 0
C31 VCH 0 0.1e-6
C32 VCH 0 1.0e-6
C33 VCH 0 10.0e-6

* connections to VCL
R23 VCC2  VCL 0
C40 VCL 0 100.0e-9
C41 VCL 0 1.0e-6
C42 VCL 0 10.0e-6

* connections to OUT
R24 OUT 27 64.9
R27 27 0 75.0
R25 27 2 15.0

* connections to VEE
C22 VEE2 0 0.1e-6
C23 VEE2 0 1.0e-6
C24 VEE2 0 1.0e-6
C25 VEE2 0 0.1e-6
C26 VEE2 0 1.0e-6
C27 VEE2 0 0.1e-6
C28 VEE2 0 1.0e-6

* connections to VCC
C34 VCC2  0 0.1e-6
C35 VCC2  0 1.0e-6
C36 VCC2  0 1.0e-6
C37 VCC2  0 0.1e-6
C38 VCC2  0 1.0e-6
C39 VCC2  0 1.0e-6
 
* connections to PAD
